US09216972B2
To a heat gun dried 100 mL 2-necked flask was added diisopropylamine (0.910 mL, 6.39 mmol) under a nitrogen atmosphere followed by THF (5 mL). The flask was cooled to 0° C. and n-BuLi (2.55 mL, 6.39 mmol) was added dropwise over a period of 2 min. The contents were stirred at 0° C. for 20 min., cooled to −78° C. and 6-vinyl-3,4-dihydronaphthalen-1(2H)-one (I-1B, 1 g, 5.81 mmol) dissolved in 2 mL of THF was added dropwise over a period of 3 min. The pale yellow reaction mixture was stirred at −78° C. for 20 min. Then 5-phenyl-4-(trifluoromethyl)isoxazole-3-carbonyl fluoride (I-14, 1.505 g, 5.81 mmol) dissolved in 2 mL of THF was added dropwise over a period of 2 min. The reaction mixture was stirred at −78° C. for 20 min, bought to room temperature and stirred at room temperature for 10 min. The reaction mixture was quenched with 1N HCl (5 mL) and extracted into EtOAc (20 mL). The aqueous layer was re-extracted with EtOAc (10 mL). The combined organic layers were dried over sodium sulfate concentrated and purified by column chromatography using an ISCO setup (80 g, RediSep® silica gel column). The desired fractions were collected and concentrated to yield 2-(5-phenyl-4-(trifluoromethyl)isoxazole-3-carbonyl)-6-vinyl-3,4-dihydronaphthalen-1(2H)-one (1.55 g, 3.77 mmol, 64.9% yield) as a yellow solid. LC/MS M+1=412.12.

reactant | diisopropylamine | 6.39 mmol, 0.910 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 6.39 mmol, 2.55 mL | [Li]CCCC
reactant | 6-vinyl-3,4-dihydronaphthalen-1(2H)-one | 5.81 mmol, 1 g | C(=C)C=1C=C2CCCC(C2=CC1)=O | C12H12O
reactant | 5-phenyl-4-(trifluoromethyl)isoxazole-3-carbonyl fluoride | 5.81 mmol, 1.505 g | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)F)C(F)(F)F | C11H5F4NO2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(5-phenyl-4-(trifluoromethyl)isoxazole-3-carbonyl)-6-vinyl-3,4-dihydronaphthalen-1(2H)-one | 3.77 mmol, 1.55 g, 64.9% yield | C1(=CC=CC=C1)C1=C(C(=NO1)C(=O)C1C(C2=CC=C(C=C2CC1)C=C)=O)C(F)(F)F | C23H16F3NO3
